US04192805
A solution of 11.8 g (0.061 mole) of 1,1-dimethyl-2-(3,4-methylenedioxyphenyl)ethylamine in 151 ml of tetrahydrofuran was treated with 11.1 g (0.0306 mole) of methyl 2-benzyloxy-5-bromoacetylbenzoate. The resulting solution was stirred for 5.5 hours and allowed to stand for a further 48 hours after which it was cooled, the solid which had separated was filtered off and the filtrate was concentrated by evaporation. The filtered solid and the filtrate were then recombined and the mixture was covered with 100 ml of methanol, warmed to 35°, stirred at that temperature for 30 minutes and cooled. A solid which separated was filtered off, washed with methanol and air dried to give N-[1,1-dimethyl-2-(3,4-methylenedioxyphenyl)ethyl]aminomethyl 3-methoxycarbonyl-4-benzyloxyphenyl ketone as a white solid, m.p. 134°-141° C. (Yield 10.48 g, 72.0%).

reactant | 1,1-dimethyl-2-(3,4-methylenedioxyphenyl)ethylamine | 0.061 mole, 11.8 g | CC(CC1=CC2=C(C=C1)OCO2)(C)N | C11H15NO2
reactant | methyl 2-benzyloxy-5-bromoacetylbenzoate | 0.0306 mole, 11.1 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(CBr)=O | C17H15BrO4
solvent | tetrahydrofuran | 151 ml | O1CCCC1 | C4H8O
product | N-[1,1-dimethyl-2-(3,4-methylenedioxyphenyl)ethyl]aminomethyl 3-methoxycarbonyl-4-benzyloxyphenyl ketone | COC(=O)C=1C=C(C=CC1OCC1=CC=CC=C1)C(=O)CNC(CC1=CC2=C(C=C1)OCO2)(C)C | C28H29NO6
